US06743920B2
2-Chloro-N4-(2-methylpropyl)-6-methyl pyridin-3,4-diamine
2-Chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine (5.00 g) from Part A, toluene (100 ml), and 5% platinum on carbon (3.5 g) were added to a Parr shaker and placed on a hydrogenator at a hydrogen pressure of 345 kPa for 4 hours. The reaction, monitored by HPLC, was complete, and the resulting reaction mixture was filtered through a fluted filter paper and then through a folded No.2 Whatman filter. The solvent was removed from the filtrate under reduced pressure, and the resulting oil (4.14 g) was carried on to the next step.

reactant | 2-Chloro-N-(2-methylpropyl)-6-methyl-3-nitropyridin-4-amine | 5.00 g | ClC1=NC(=CC(=C1[N+](=O)[O-])NCC(C)C)C | C10H14ClN3O2
reactant | hydrogen | [H][H] | H2
catalyst | platinum on carbon | 3.5 g | [Pt] | Pt
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-N4-(2-methylpropyl)-6-methyl pyridin-3,4-diamine | ClC1=NC(=CC(=C1N)NCC(C)C)C | C10H16ClN3
